*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 026011C-N75
* Inductance = 0.75nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001MHz-35MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 026011C-N75_freq port1 port2 PARAMS: Cpar=0.029pF Ind=0.75nH
X1 port1 port2 Model2A PARAMS:
+ R1=10
+ R2=0.03
+ C= {Cpar}
+ K1=0.000003
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2455.18283
.ends 026011C-N75_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 026011C-1N7
* Inductance = 1.7nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001MHz-35MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 026011C-1N7_freq port1 port2 PARAMS: Cpar=0.013pF Ind=1.7nH
X1 port1 port2 Model2A PARAMS:
+ R1=40
+ R2=0.06
+ C= {Cpar}
+ K1=0.000006
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3200.90285
.ends 026011C-1N7_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 026011C-3N0
* Inductance = 3nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001MHz-14MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 026011C-3N0_freq port1 port2 PARAMS: Cpar=0.045pF Ind=3nH
X1 port1 port2 Model2A PARAMS:
+ R1=10
+ R2=0.082
+ C= {Cpar}
+ K1=0.0000092
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6023.25969
.ends 026011C-3N0_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 026011C-4N7
* Inductance = 4.7nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001MHz-12MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 026011C-4N7_freq port1 port2 PARAMS: Cpar=0.04pF Ind=4.7nH
X1 port1 port2 Model2A PARAMS:
+ R1=10
+ R2=0.11
+ C= {Cpar}
+ K1=0.000014
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=10214.5412
.ends 026011C-4N7_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 026011C-5N1
* Inductance = 5.1nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001MHz-11MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 026011C-5N1_freq port1 port2 PARAMS: Cpar=0.046pF Ind=5.1nH
X1 port1 port2 Model2A PARAMS:
+ R1=5
+ R2=0.12
+ C= {Cpar}
+ K1=0.000015
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=16983.1992
.ends 026011C-5N1_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 026011C-5N6
* Inductance = 5.6nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 026011C-5N6_freq port1 port2 PARAMS: Cpar=0.0491pF Ind=5.6nH
X1 port1 port2 Model2A PARAMS:
+ R1=10
+ R2=0.13
+ C= {Cpar}
+ K1=0.000018
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=9700.04081
.ends 026011C-5N6_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 026011C-6N2
* Inductance = 6.2nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 026011C-6N2_freq port1 port2 PARAMS: Cpar=0.0413pF Ind=6.2nH
X1 port1 port2 Model2A PARAMS:
+ R1=10
+ R2=0.13
+ C= {Cpar}
+ K1=0.00002
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=12520.1901
.ends 026011C-6N2_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 026011C-6N8
* Inductance = 6.8nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001MHz-9MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 026011C-6N8_freq port1 port2 PARAMS: Cpar=0.0491pF Ind=6.8nH
X1 port1 port2 Model2A PARAMS:
+ R1=10
+ R2=0.135
+ C= {Cpar}
+ K1=0.000021
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=11584.2531
.ends 026011C-6N8_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 026011C-7N5
* Inductance = 7.5nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001MHz-9MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 026011C-7N5_freq port1 port2 PARAMS: Cpar=0.0467pF Ind=7.5nH
X1 port1 port2 Model2A PARAMS:
+ R1=10
+ R2=0.155
+ C= {Cpar}
+ K1=0.000024
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=13154.087
.ends 026011C-7N5_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 026011C-8N2
* Inductance = 8.2nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001MHz-8MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 026011C-8N2_freq port1 port2 PARAMS: Cpar=0.051pF Ind=8.2nH
X1 port1 port2 Model2A PARAMS:
+ R1=10
+ R2=0.24
+ C= {Cpar}
+ K1=0.000025
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=13177.6548
.ends 026011C-8N2_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 026011C-9N0
* Inductance = 9nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001MHz-8MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 026011C-9N0_freq port1 port2 PARAMS: Cpar=0.0444pF Ind=9nH
X1 port1 port2 Model2A PARAMS:
+ R1=10
+ R2=0.155
+ C= {Cpar}
+ K1=0.00003
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=15994.3639
.ends 026011C-9N0_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 026011C-10N
* Inductance = 10nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001MHz-8MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 026011C-10N_freq port1 port2 PARAMS: Cpar=0.0444pF Ind=10nH
X1 port1 port2 Model2A PARAMS:
+ R1=10
+ R2=0.19
+ C= {Cpar}
+ K1=0.00003
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=17869.1387
.ends 026011C-10N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 026011C-11N
* Inductance = 11nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001MHz-7MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 026011C-11N_freq port1 port2 PARAMS: Cpar=0.0528pF Ind=11nH
X1 port1 port2 Model2A PARAMS:
+ R1=10
+ R2=0.28
+ C= {Cpar}
+ K1=0.000037
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=16021.7287
.ends 026011C-11N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 026011C-12N
* Inductance = 12nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001MHz-6.5MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 026011C-12N_freq port1 port2 PARAMS: Cpar=0.0535pF Ind=12nH
X1 port1 port2 Model2A PARAMS:
+ R1=10
+ R2=0.37
+ C= {Cpar}
+ K1=0.000039
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=17138.4664
.ends 026011C-12N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 026011C-15N
* Inductance = 15nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001MHz-5.5MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 026011C-15N_freq port1 port2 PARAMS: Cpar=0.0631pF Ind=15nH
X1 port1 port2 Model2A PARAMS:
+ R1=10
+ R2=0.415
+ C= {Cpar}
+ K1=0.000048
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=17675.6145
.ends 026011C-15N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 026011C-16N
* Inductance = 16nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001MHz-5.5MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 026011C-16N_freq port1 port2 PARAMS: Cpar=0.0532pF Ind=16nH
X1 port1 port2 Model2A PARAMS:
+ R1=10
+ R2=0.315
+ C= {Cpar}
+ K1=0.000056
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=21279.9179
.ends 026011C-16N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 026011C-18N
* Inductance = 18nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001MHz-5MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 026011C-18N_freq port1 port2 PARAMS: Cpar=0.0623pF Ind=18nH
X1 port1 port2 Model2A PARAMS:
+ R1=10
+ R2=0.46
+ C= {Cpar}
+ K1=0.000058
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=20644.2709
.ends 026011C-18N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 026011C-20N
* Inductance = 20nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001MHz-5.1MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 026011C-20N_freq port1 port2 PARAMS: Cpar=0.0479pF Ind=20nH
X1 port1 port2 Model2A PARAMS:
+ R1=10
+ R2=0.42
+ C= {Cpar}
+ K1=0.000069
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=27937.4385
.ends 026011C-20N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 026011C-22N
* Inductance = 22nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001MHz-4.7MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 026011C-22N_freq port1 port2 PARAMS: Cpar=0.0514pF Ind=22nH
X1 port1 port2 Model2A PARAMS:
+ R1=10
+ R2=0.54
+ C= {Cpar}
+ K1=0.000075
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=28238.4813
.ends 026011C-22N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 026011C-24N
* Inductance = 24nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001MHz-4.5MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 026011C-24N_freq port1 port2 PARAMS: Cpar=0.0514pF Ind=24nH
X1 port1 port2 Model2A PARAMS:
+ R1=10
+ R2=0.46
+ C= {Cpar}
+ K1=0.00008
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=30353.5795
.ends 026011C-24N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 026011C-27N
* Inductance = 27nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001MHz-4.3MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 026011C-27N_freq port1 port2 PARAMS: Cpar=0.0507pF Ind=27nH
X1 port1 port2 Model2A PARAMS:
+ R1=10
+ R2=0.505
+ C= {Cpar}
+ K1=0.00009
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=33492.1583
.ends 026011C-27N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 026011C-30N
* Inductance = 29.9nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001MHz-4.4MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 026011C-30N_freq port1 port2 PARAMS: Cpar=0.0444pF Ind=29.9nH
X1 port1 port2 Model2A PARAMS:
+ R1=10
+ R2=0.8
+ C= {Cpar}
+ K1=0.000098
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=40875.6656
.ends 026011C-30N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 026011C-33N
* Inductance = 32.87nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001MHz-4MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 026011C-33N_freq port1 port2 PARAMS: Cpar=0.0474pF Ind=32.87nH
X1 port1 port2 Model2A PARAMS:
+ R1=10
+ R2=0.71
+ C= {Cpar}
+ K1=0.000115
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=40084.0538
.ends 026011C-33N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 026011C-36N
* Inductance = 35.9nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001MHz-4MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 026011C-36N_freq port1 port2 PARAMS: Cpar=0.0474pF Ind=35.9nH
X1 port1 port2 Model2A PARAMS:
+ R1=10
+ R2=1.08
+ C= {Cpar}
+ K1=0.000118
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=43710.4278
.ends 026011C-36N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 026011C-39N
* Inductance = 38.8nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001MHz-3.75MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 026011C-39N_freq port1 port2 PARAMS: Cpar=0.0467pF Ind=38.8nH
X1 port1 port2 Model2A PARAMS:
+ R1=10
+ R2=1
+ C= {Cpar}
+ K1=0.000137
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=45215.9881
.ends 026011C-39N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 026011C-43N
* Inductance = 42.8nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001MHz-3.6MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 026011C-43N_freq port1 port2 PARAMS: Cpar=0.0473pF Ind=42.8nH
X1 port1 port2 Model2A PARAMS:
+ R1=10
+ R2=1
+ C= {Cpar}
+ K1=0.000153
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=47381.6254
.ends 026011C-43N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 026011C-56N
* Inductance = 55.65nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001MHz-3.2MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 026011C-56N_freq port1 port2 PARAMS: Cpar=0.0445pF Ind=55.65nH
X1 port1 port2 Model2A PARAMS:
+ R1=10
+ R2=1.46
+ C= {Cpar}
+ K1=0.00016
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=65657.8914
.ends 026011C-56N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 026011C-68N
* Inductance = 67.8nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001MHz-2.9MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 026011C-68N_freq port1 port2 PARAMS: Cpar=0.0457pF Ind=67.8nH
X1 port1 port2 Model2A PARAMS:
+ R1=10
+ R2=1.92
+ C= {Cpar}
+ K1=0.00023
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=66540.7231
.ends 026011C-68N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 026011C-75N
* Inductance = 74.4nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001MHz-2.8MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 026011C-75N_freq port1 port2 PARAMS: Cpar=0.0457pF Ind=74.4nH
X1 port1 port2 Model2A PARAMS:
+ R1=10
+ R2=2.6
+ C= {Cpar}
+ K1=0.00019
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=81708.7091
.ends 026011C-75N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft RF Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model2A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K3=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
L1 N003 Lout = {K3}
.ends Model2A








.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
